US06949648B2
2-[[3-Methyl-1-(3-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid
A solution of 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one (10.2 g, 50.0 mmol), 3-hydrazinopyridine dihydrochloride (9.10 g, 50.0 mmol) and sodium acetate (9.84 g, 120 mmol) in ethanol (100 mL) was heated under reflux for 1 hour. The solution was cooled to room temperature, and the reaction solvent was evaporated under reduced pressure. The residue was poured into water, and organic matter was extracted with a mixed solvent of chloroform/methanol. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was crystallized from ethyl acetate/diethylether/hexane to give the title compound (10.1 g, 69% yield).

reactant | 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one | 50.0 mmol, 10.2 g | O=C(CC1=NC2=C(C(O1)=O)C=CC=C2)C | C11H9NO3
reactant | 3-hydrazinopyridine dihydrochloride | 50.0 mmol, 9.10 g | Cl.Cl.N(N)C=1C=NC=CC1
reactant | sodium acetate | 120 mmol, 9.84 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-[[3-Methyl-1-(3-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 10.1 g, 69% yield | CC1=NN(C(=C1)NC1=C(C(=O)O)C=CC=C1)C=1C=NC=CC1 | C16H14N4O2
